US06803457B1
2-[5-Chloro-2-(3-methylisoxazol-5-ylmethoxy)benzyl]isoindole-1,3-dione
To a mixture of 2-[5-chloro-2-hydroxy benzyl]isoindole-1,3-dione (800 mg, 2.78 mmol), 5-hydroxymethyl-3-methyl-isoxazole (373 mg, 3.3 mmol), and triphenylphosphine (1.0 g, 4.2 mmol) in anhydrous THF (10 mL) was added diethylazodicarboxylate (0.657 mL, 4.7 mmol). The solution was stirred for 15 h at room temperature under anhydrous conditions. The solvent was then removed by rotary evaporation and the product was preadsorbed onto silica gel and purified by flash chromatography to afford the title compound (555 mg, 52%).

reactant | 2-[5-chloro-2-hydroxy benzyl]isoindole-1,3-dione | 2.78 mmol, 800 mg | ClC=1C=CC(=C(CN2C(C3=CC=CC=C3C2=O)=O)C1)O | C15H10ClNO3
reactant | 5-hydroxymethyl-3-methyl-isoxazole | 3.3 mmol, 373 mg | OCC1=CC(=NO1)C | C5H7NO2
reactant | triphenylphosphine | 4.2 mmol, 1.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 4.7 mmol, 0.657 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[5-Chloro-2-(3-methylisoxazol-5-ylmethoxy)benzyl]isoindole-1,3-dione | 555 mg, 52% | ClC=1C=CC(=C(CN2C(C3=CC=CC=C3C2=O)=O)C1)OCC1=CC(=NO1)C | C20H15ClN2O4
